US06476040B1
Preparation of N-(3-ethylphenyl)-6,7-bis(2-methoxyethoxy)-4-quinazolinamine
4-Chloro-6,7-bis(2-methoxyethoxy)quinazoline (50 g, 160 mmol), 3-ethylaniline (21.34 g, 176 mmol) and propan-2-ol (500 mL) was heated at 78-82° C. for 16 hours. The mixture was cooled to cool to 5-10° C. and stirred for 1 hour. The solid was collected by filtration, and mixed with water (200 mL) and ethyl acetate (500 mL). The mixture was adjusted to pH 10-12 with 50% aqueous sodium hydroxide to give to clear layers. The organic layer was separated and washed with water (200 mL), brine (200 mL) and dried over anhydrous magnesium sulfate, filtered and concentrated to an oil. The oil was allowed to solidify and dried under vacuum at 20-25° C. to give the title product (57.2 g, 90%) as a white solid. mp 72-74° C.;

reactant | 4-Chloro-6,7-bis(2-methoxyethoxy)quinazoline | 160 mmol, 50 g | ClC1=NC=NC2=CC(=C(C=C12)OCCOC)OCCOC | C14H17ClN2O4
reactant | 3-ethylaniline | 176 mmol, 21.34 g | C(C)C=1C=C(N)C=CC1 | C8H11N
solvent | propan-2-ol | 500 mL | CC(C)O | C3H8O
product | N-(3-ethylphenyl)-6,7-bis(2-methoxyethoxy)-4-quinazolinamine | 57.2 g, 90% | C(C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OCCOC)OCCOC | C22H27N3O4
